US07579474B2
4-(2,3-DICHLOROPHENYL)-1-(3,3,3-TRIFLUOROPROPYL)PIPERIDIN-4-OL
Preparation according to Example 2: 4-(2,3-dichlorophenyl)piperidine (0.02 g, 0.081 mmol), acetonitrile (2 ml), potassium carbonate (0.02 g, 0.14 mmol), 1,1,1-trifluoro-3-iodopropane (0.010 ml, 0.082 mmol). MS m/z (relative intensity, 70 eV) 343 (M+, 10), 341 (M+, 15), 260 (52), 258 (82), 152 (54), 42 (bp).

reactant | 4-(2,3-dichlorophenyl)piperidine | 0.081 mmol, 0.02 g | ClC1=C(C=CC=C1Cl)C1CCNCC1 | C11H13Cl2N
reactant | potassium carbonate | 0.14 mmol, 0.02 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,1,1-trifluoro-3-iodopropane | 0.082 mmol, 0.010 ml | FC(CCI)(F)F | C3H4F3I
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 4-(2,3-DICHLOROPHENYL)-1-(3,3,3-TRIFLUOROPROPYL)PIPERIDIN-4-OL | ClC1=C(C=CC=C1Cl)C1(CCN(CC1)CCC(F)(F)F)O | C14H16Cl2F3NO
